US04539410
To a solution of Collins Reagent prepared with chromium trioxide (5.6 g) and pyridine (8.86 g) in dichloromethane (150 ml) at 0°-5° under a nitrogen atmosphere is added all at once 1.8 g of 1-(6-hydroxyhexyl)-3-methyl-2-(1-imidazolyl)-indole in dichloromethane (15 ml). The mixture is stirred for an additional 25 minutes, then filtered through celite. The filtrate is then passed through a silica gel column. The product is eluted from the silica gel with a 1:1 mixture of ethyl acetate:dichloromethane (500 ml). Concentration in vacuo yields 1-(5-formylpentyl)-2-(1-imidazolyl)-3-methylindole.

reactant | Collins Reagent | O=[Cr](=O)=O.C1=NC=CC=C1.C2=NC=CC=C2
reactant | pyridine | 8.86 g | N1=CC=CC=C1 | C5H5N
reactant | 1-(6-hydroxyhexyl)-3-methyl-2-(1-imidazolyl)-indole | 1.8 g | OCCCCCCN1C(=C(C2=CC=CC=C12)C)N1C=NC=C1 | C18H23N3O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
catalyst | chromium trioxide | 5.6 g | [O-2].[O-2].[O-2].[Cr+6]
product | 1-(5-formylpentyl)-2-(1-imidazolyl)-3-methylindole | C(=O)CCCCCN1C(=C(C2=CC=CC=C12)C)N1C=NC=C1 | C18H21N3O
